US07381728B2
N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-(3-thienyl)benzenesulfonamide (E119)
To a mixture of 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide (E106) (200 mg, 0.44 mmol) and 3-thienylboronic acid (113 mg, 0.88 mmol) in DME (3 ml) was added potassium tert-butoxide (445 mg, 3.97 mmol) and tetrakis(triphenylphosphine)palladium(0) (30.5 mg, 0.03 mmol) in water (1 ml) and the resulting mixture stirred in a microwave (set at high absorbance) at 100° C. for 30 minutes. 2-3 ml of toluene added and solvent evaporated, the residue dissolved in methanol and added to a preconditioned (methanol) SCX cartridge eluting with methanol (×3), ammonia (1M in methanol (×2)) and then ammonia (2M in methanol (×3)), followed by by mass directed autoprep HPLC followed by trituration with diethyl ether to afford the title compound (E119). MS (AP+) m/e 458 [M+H]+.

reactant | 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide | 0.44 mmol, 200 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC | C19H24BrN3O3S
reactant | 3-thienylboronic acid | 0.88 mmol, 113 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium tert-butoxide | 3.97 mmol, 445 mg | CC(C)([O-])C.[K+]
reactant | toluene | 2-3 ml | C1(=CC=CC=C1)C | C7H8
solvent | DME | 3 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 30.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-(3-thienyl)benzenesulfonamide | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CSC=C1)OC | C23H27N3O3S2
